US05462952
To a suspension of 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoic acid hydrazide (394.1 mg, 1.27 mmoles) in 20 ml of 2-propanol is added triethylamine (200 μl, 1.43 mmoles) followed by diphenyl cyanocarbonimidate (371.9 mg, 1.56 mmoles). After 1.5 hours the resultant yellow solution is concentrated in vacuo. The residue is dissolved in 10 ml of ethyl acetate and partitioned between water and a 1:1 mixture of ether and hexane. The aqueous layer is acidified with 1N hydrochloric acid, and the resultant white solid is collected by filtration to provide 99.3 mg (22%) of 5-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-1,3,4-oxadiazol-2-yl-cyanamide, mp above 215° C.

reactant | 2-[(2,6-dichloro-3-methylphenyl)amino]-benzoic acid hydrazide | 1.27 mmoles, 394.1 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C(=O)NN)C=CC=C1 | C14H13Cl2N3O
reactant | triethylamine | 1.43 mmoles, 200 μl | C(C)N(CC)CC | C6H15N
reactant | diphenyl cyanocarbonimidate | 1.56 mmoles, 371.9 mg | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 5-[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]-1,3,4-oxadiazol-2-yl-cyanamide | 99.3 mg, 22% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)C1=NN=C(O1)NC#N | C16H11Cl2N5O
